US03991202
A mixture of 8.6 parts of 1-(2-phenylethyl)-1H-imidazole, 24.5 parts of 2,4-dichloro-β-(2,4-dichlorophenylmethoxy)benzeneethanol methanesulfonate and 150 parts of N,N-dimethylformamide is stirred and refluxed overnight. The mixture is allowed to cool to room temperature, poured onto water and extracted twice with trichloromethane. The combined organic phases are washed three times with water, dried, filtered and evaporated, yielding 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-phenethylimidazolium methanesulfonate as an oily residue. The oily residue is taken up in ethanol and brought on an ion exchange column (Amberlite IRA 400) previously converted into the hydroxyl form by treatment with a sodium hydroxide solution. The product in the form of a quaternary imidazolium hydroxide is eluted with ethanol and to the eluate there are added 30 parts of a concentrated hydrochloric acid solution. After evaporating off the solvent there is obtained 1-[2,4-dichloro-62 -(2,4-dichlorobenzyloxy)phenethyl]-3-phenethylimidazolium chloride, m.p. 158.9° C.

reactant | 1-(2-phenylethyl)-1H-imidazole | C1(=CC=CC=C1)CCN1C=NC=C1 | C11H12N2
reactant | 2,4-dichloro-β-(2,4-dichlorophenylmethoxy)benzeneethanol methanesulfonate | CS(=O)(=O)OCC(C1=C(C=C(C=C1)Cl)Cl)OCC1=C(C=C(C=C1)Cl)Cl | C16H14Cl4O4S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]-3-phenethylimidazolium methanesulfonate | CS(=O)(=O)[O-].ClC1=C(C(C[N+]2=CN(C=C2)CCC2=CC=CC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | InChI=1S/C26H23Cl4N2O.CH4O3S/c27-21-7-6-20(24(29)14-21)17-33-26(23-9-8-22(28)15-25(23)30)16-32-13-12-31(18-32)11-10-19-4-2-1-3-5-19;1-5(2,3)4/h1-9,12-15,18,26H,10-11,16-17H2;1H3,(H,2,3,4)/q+1;/p-1
